US08222424B2
A solution of 0.303 g of 6-bromo-2-methyl-1H-benzoimidazole in tetrahydrofuran (20 mL) is cooled to −50° C. and treated with 2.7 mL of tert-butyllithium (1.5 M in pentane). After 2 h at −50° C. the reaction mixture is treated with 0.12 g of 4-chloro-N-methoxy-N-methyl-3-sulfamoyl-benzamide in tetrahydrofuran (10 mL). After 3 h the mixture is quenched with saturated aqueous ammonium chloride, taken up in ethyl acetate, and washed with saturated aqueous sodium chloride. The organics are dried (magnesium sulfate), concentrated and purified by silica gel chromatography (98:2 methylene chloride/methanol) to give 2-chloro-5-(2-methyl-3H-benzoimidazole-5-carbonyl)-benzenesulfonamide. MS (m/z): 348 (M−1); Rf 0.30 (9:1 methylene chloride/methanol).

reactant | 6-bromo-2-methyl-1H-benzoimidazole | 0.303 g | BrC=1C=CC2=C(NC(=N2)C)C1 | C8H7BrN2
reactant | tert-butyllithium | 1.5 M, 2.7 mL | C(C)(C)(C)[Li]
reactant | 4-chloro-N-methoxy-N-methyl-3-sulfamoyl-benzamide | 0.12 g | ClC1=C(C=C(C(=O)N(C)OC)C=C1)S(N)(=O)=O | C9H11ClN2O4S
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 2-chloro-5-(2-methyl-3H-benzoimidazole-5-carbonyl)-benzenesulfonamide | ClC1=C(C=C(C=C1)C(=O)C1=CC2=C(N=C(N2)C)C=C1)S(=O)(=O)N | C15H12ClN3O3S
